US08293903B2
1,5-Anhydro-2,3-dideoxy-3-{[(1R,3S)-3-(1-hydroxycyclobutyl)-3-({(1S,4S)-5-[6-(trifluoromethyl)pyridin-2-yl]-2,5-diazabicyclo[2.2.1]hept-2-yl}carbonyl)cyclopentyl]amino}-4-O-methyl-D-erythro-pentitol
A solution of 93 mg (0.20 mmol) of 1,5-anhydro-2,3-dideoxy-3-{[(1R,3S)-3-[(1S,4S)-2,5-diazabicyclo[2.2.1]hept-2-ylcarbonyl]-3-(1-hydroxycyclobutyl)cyclopentyl]amino}-4-O-methyl-D-erythro-pentitol dihydrochloride, 91 mg (0.49 mmol) of 2-chloro-6-trifluoromethylpyridine, and 0.14 mL (0.80 mmol) of diisopropylethylamine in 0.5 mL of DMSO was heated at 80 C for 18 h, then cooled and partitioned between ethyl acetate and water. The organic phase was dried (Na2SO4) and concentrated under reduced pressure. The crude material was purified by preparative RP-HPLC using as the mobile phase acetonitrile-water containing 0.05% TFA. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.46-2.52 (m, 16H) 3.26-3.54 (m, 8H) 3.53-3.92 (m, 4H) 4.02 (dd, J=11.8, 4.3 Hz, 1H) 4.22 (d, J=13.0 Hz, 1H) 5.01 (d, J=14.3 Hz, 2H) 6.47 (d, J=8.5 Hz, 1H) 6.93 (d, J=7.5 Hz, 1H) 7.56 (t, J=8.0 Hz, 1H). HRMS calculated for C27H37N4O4F3: 539.2845; found: 539.2894.

reactant | 1,5-anhydro-2,3-dideoxy-3-{[(1R,3S)-3-[(1S,4S)-2,5-diazabicyclo[2.2.1]hept-2-ylcarbonyl]-3-(1-hydroxycyclobutyl)cyclopentyl]amino}-4-O-methyl-D-erythro-pentitol dihydrochloride | 0.20 mmol, 93 mg | Cl.Cl.[C@@H]12N(C[C@@H](NC1)C2)C(=O)[C@@]2(C[C@@H](CC2)N[C@H]2CCOC[C@H]2OC)C2(CCC2)O
reactant | 2-chloro-6-trifluoromethylpyridine | 0.49 mmol, 91 mg | ClC1=NC(=CC=C1)C(F)(F)F | C6H3ClF3N
reactant | diisopropylethylamine | 0.80 mmol, 0.14 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
product | 1,5-Anhydro-2,3-dideoxy-3-{[(1R,3S)-3-(1-hydroxycyclobutyl)-3-({(1S,4S)-5-[6-(trifluoromethyl)pyridin-2-yl]-2,5-diazabicyclo[2.2.1]hept-2-yl}carbonyl)cyclopentyl]amino}-4-O-methyl-D-erythro-pentitol | OC1(CCC1)[C@]1(C[C@@H](CC1)N[C@H]1CCOC[C@H]1OC)C(=O)N1[C@@H]2CN([C@H](C1)C2)C2=NC(=CC=C2)C(F)(F)F | C27H37F3N4O4
